US06103910
0.9 g (4 mmol) 1-(3-mercapto-propionyl)-(R)-pyrrolidine-2-carboxylic acid (raw material) were dissolved in dichloromethane and extracted with 50 ml of an saturated aqueous solution of CuSO4. The aqueous phase was extracted twice with dichloromethane, the combined organic phases filtered, dried with magnesiumsulfate and evaporated. Chromatography with dichloromethane/acetone/formic acid 80/20/1 gave 70 mg (R)-1-[3-[3-[(R)-2-carboxy-pyrrolidin- 1-yl]-3-oxo-propyldisulfanyl]-propionyl]-pyrrolidine-2-carboxylic acid as a colorless oil. ISN -MS: 403 (M--H)-.

reactant | 1-(3-mercapto-propionyl)-(R)-pyrrolidine-2-carboxylic acid | 4 mmol, 0.9 g | SCCC(=O)N1[C@H](CCC1)C(=O)O | C8H13NO3S
solvent | dichloromethane | ClCCl | CH2Cl2
product | (R)-1-[3-[3-[(R)-2-carboxy-pyrrolidin- 1-yl]-3-oxo-propyldisulfanyl]-propionyl]-pyrrolidine-2-carboxylic acid | 70 mg | C(=O)(O)[C@@H]1N(CCC1)C(CCSSCCC(=O)N1[C@H](CCC1)C(=O)O)=O | C16H24N2O6S2
